US07652023B2
To a solution of (R)-N-((S)-1-(4-fluoro-3-methoxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide (1.1 g, 2 mmol) in MeOH (50 mL) was added 4N HCl (2.5 mL). The reaction mixture was stirred at room temperature for 20 minutes. The organic solvent was removed under reduced pressure. To the residue was added saturated NaHCO3, and the aqueous portion was extracted with ether. The separated organic portion was dried over MgSO4, filtered and concentrated. The residue was purified by ISCO chromatography (40 g column) using hexanes/EtOAc (0-60%) over 18 min to give (S)-1-(4-fluoro-3-methoxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine as a colorless oil (540 mg, 59% yield). LCMS: RT=1.74 min, [M+H]−17=439.3 (Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm).

reactant | (R)-N-((S)-1-(4-fluoro-3-methoxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | 2 mmol, 1.1 g | FC1=C(C=C(C=C1)[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)N[S@](=O)C(C)(C)C)OC | C27H27F6NO3S
reactant | HCl | 4N, 2.5 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | (S)-1-(4-fluoro-3-methoxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine | 540 mg, 59% yield | FC1=C(C=C(C=C1)[C@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC | C23H19F6NO2
